US07544697B2
To a mixture of 5-[2-(1,3-dioxo-1,3-dihydro-2H-isoindol-2-yl)ethyl]-1-methyl-1H-pyrazole-3-carbonitrile (8.50 g, 30.3 mmol) and potassium acetate (4.50 g, 45.5 mmol) in acetic acid (40 mL) and dichloromethane (120 mL) was slowly added bromine (6.79 g, 42.5 mmol). The mixture was stirred overnight. Saturated aqueous sodium hydrogensulfite was added until the mixture became colorless, then the mixture was concentrated under reduced pressure to form a slurry. Water (200 mL) was added to the slurry and a white solid was isolated by filtration, washed with water, and dried to afford 9.15 g of 4-bromo-5-[2-(1,3-dioxo-1,3-dihydro-2H-isoindol-2-yl)ethyl]-1-methyl-1H-pyrazole-3-carbonitrile as a white solid.

reactant | 5-[2-(1,3-dioxo-1,3-dihydro-2H-isoindol-2-yl)ethyl]-1-methyl-1H-pyrazole-3-carbonitrile | 30.3 mmol, 8.50 g | O=C1N(C(C2=CC=CC=C12)=O)CCC1=CC(=NN1C)C#N | C15H12N4O2
reactant | potassium acetate | 45.5 mmol, 4.50 g | C(C)(=O)[O-].[K+]
reactant | bromine | 42.5 mmol, 6.79 g | BrBr | Br2
reactant | sodium hydrogensulfite | S(=O)(O)[O-].[Na+]
solvent | acetic acid | 40 mL | C(C)(=O)O | C2H4O2
solvent | dichloromethane | 120 mL | ClCCl | CH2Cl2
solvent | Water | 200 mL | O | H2O
product | 4-bromo-5-[2-(1,3-dioxo-1,3-dihydro-2H-isoindol-2-yl)ethyl]-1-methyl-1H-pyrazole-3-carbonitrile | 9.15 g | BrC=1C(=NN(C1CCN1C(C2=CC=CC=C2C1=O)=O)C)C#N | C15H11BrN4O2
